US06924278B2
A mixture of methyl (2R)-2-[(2-benzylaminoacetyl)amino]-3-(3,4-dimethylphenyl)propionate (2.5 g) and acetic acid (0.2 ml) in isopropyl alcohol (8.8 ml) was stirred for 5 hours under reflux. After being cooled to room temperature, isopropyl ether was added to the mixture. The resulting precipitates were collected by filtration and washed with isopropyl ether to give colorless crystals of (3R)-1-benzyl-3-(3,4-dimethylbenzyl)-2,5-piperazinedione (1.26 g).

reactant | methyl (2R)-2-[(2-benzylaminoacetyl)amino]-3-(3,4-dimethylphenyl)propionate | 2.5 g | C(C1=CC=CC=C1)NCC(=O)N[C@@H](C(=O)OC)CC1=CC(=C(C=C1)C)C | C21H26N2O3
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl alcohol | 8.8 ml | C(C)(C)O | C3H8O
product | (3R)-1-benzyl-3-(3,4-dimethylbenzyl)-2,5-piperazinedione | 1.26 g | C(C1=CC=CC=C1)N1C([C@H](NC(C1)=O)CC1=CC(=C(C=C1)C)C)=O | C20H22N2O2
